US06080769
1A. 2-(Benzylidene-amino)-3-(1-trityl-1H-imidazol-4-yl)-2-(1-trityl-1H-imidazol-4-ylmethyl)-propionic acid methyl ester
A solution of potassium bis(trimethylsilyl)amide (11.34 g, 54 mmol) in THF (100 ml) was added dropwise to a mixture of (benzylidene-amino)-acetic acid methyl ester (3.83 g, 21.63 mmol) and 4-chloromethyl-1-trityl-1H-imidazole (21.6 g, 60.18 mmol) in THF (200 ml) at -78° C. The resulting solution was warmed to ambient temperature and stirred for 24 hours. After removal of THF, the reaction mixture was subsequently partitioned between ethyl acetate and brine. The aqueous layer was washed two times with ethyl acetate. The ethyl acetate extracts were combined, dried over MgSO4, filtered and concentrated to give the crude title compound of example 1A.

reactant | potassium bis(trimethylsilyl)amide | 54 mmol, 11.34 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (benzylidene-amino)-acetic acid methyl ester | 21.63 mmol, 3.83 g | COC(CN=CC1=CC=CC=C1)=O | C10H11NO2
reactant | 4-chloromethyl-1-trityl-1H-imidazole | 60.18 mmol, 21.6 g | ClCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-(Benzylidene-amino)-3-(1-trityl-1H-imidazol-4-yl)-2-(1-trityl-1H-imidazol-4-ylmethyl)-propionic acid methyl ester | COC(C(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N=CC1=CC=CC=C1)=O | C56H47N5O2
